US08957074B2
Following general N—C coupling procedure 1 as in example 76, 7-(1S,2S,4R)-Bicyclo[2.2.1]hept-2-yl-2-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (90 mg, 0.28 mmol) was combined with 3-(6-Amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester which gave 3-[6-((1S,2S,4R)-7-Bicyclo[2.2.1]hept-2-yl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester and was used as is without further characterization.

reactant | 7-(1S,2S,4R)-Bicyclo[2.2.1]hept-2-yl-2-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.28 mmol, 90 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1[C@@H]1[C@H]2CC[C@@H](C1)C2)C | C16H19ClN4O
reactant | 3-(6-Amino-pyridine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)N | C17H24N4O3
product | 3-[6-((1S,2S,4R)-7-Bicyclo[2.2.1]hept-2-yl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)[C@@H]1[C@H]2CC[C@@H](C1)C2 | C33H42N8O4
